US06673804B1
7-Methyl-3-(2-trimethylsilyl)ethoxymethylxanthine
In a similar manner to the procedures described in Reference Example 3, reactions were carried out using 7-methylxanthine, instead of pyrimidine-2,4-dione, and using 2-(trimethylsilyl)ethoxymethyl chloride, instead of benzyloxymethyl chloride, to give the title compound (yield 69%) as a pale yellow powder.

reactant | 7-methylxanthine | CN1C=NC=2NC(NC(C12)=O)=O | C6H6N4O2
reactant | pyrimidine-2,4-dione | N1C(NC(C=C1)=O)=O | C4H4N2O2
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | C[Si](CCOCCl)(C)C | C6H15ClOSi
product | benzyloxymethyl chloride | C(C1=CC=CC=C1)OCCl | C8H9ClO
